US09447106B2
Step 6: 6-(Acrylamidomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide
The desired product was prepared form 6-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide and acryloyl chloride using the procedure similar to that for compound 8. 1H NMR (400 MHz, DMSO-d6) δ 8.31 (t, J=5.6 Hz, 1H), 7.51 (d, J=8.8 Hz, 2H), 7.46-7.38 (m, 2H), 7.17 (t, J=7.6 Hz, 1H), 7.08 (d, J=7.6 Hz, 2H), 7.04 (d, J=8.8 Hz, 2H), 6.61 (s, 1H), 6.25 (dd, J=17.1, 10.1 Hz, 1H), 6.11 (dd, J=17.1, 2.2 Hz, 1H), 5.62 (dd, J=10.1, 2.2 Hz, 1H), 4.07 (dd, J=12.4, 6.0 Hz, 1H), 3.73 (dd, J=12.4, 8.0 Hz, 1H), 3.41-3.34 (m, 1H), 3.27-3.21 (m, 2H), 3.09-2.96 (m, 1H), 2.37-2.24 (m, 1H). MS (ESI) m/e [M+1]+ 417.9.

reactant | 6-(aminomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | NCC1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H21N5O2
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 6-(Acrylamidomethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | C(C=C)(=O)NCC1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C23H23N5O3
